US04968711
(R,S)-Bis-(1-methyl-2,5-dioxo-4-imidazolidinyl-methyl)-disulphide
To a mixture of L-cystine (12 g) and 2 molar sodium hydroxide solution (50 ml), cooled to 0°-5° C. in an ice bath, was added, dropwise, methyl isocyanate (8.55 g). The clear solution was stirred at 0° for 2 hours, and then at room temperature over night.

reactant | L-cystine | 12 g | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | methyl isocyanate | 8.55 g | CN=C=O | C2H3NO
solvent | sodium hydroxide | 2 molar, 50 ml | [OH-].[Na+]
product | (R,S)-Bis-(1-methyl-2,5-dioxo-4-imidazolidinyl-methyl)-disulphide | CN1C(N[C@H](C1=O)CSSC[C@H]1NC(N(C1=O)C)=O)=O | C10H14N4O4S2
